US06194410B1
2.05 ml (40.9 mmol) of NH2NH2 were added to a solution of 9.08 g (38.3 mmol) of 2-benzenesulphonyl-3-dimethylamino-acrylonitrile in 60 ml of EtOH and stirred at 40° for 5 hrs. The reaction solution was evaporated and the residue was partitioned between H2O and CH2Cl2. The aqueous phase was washed three times with CH2Cl2, and the combined organic phases were dried (MgSO4), filtered and evaporated. Chromatography (SiO2, CH2Cl2/MeOH 10:1) yielded 2.5 g (30%) of 4-benzenesulphonyl-1H-pyrazol-3-ylamine as a beige powder, m.p. 159-161°.

reactant | NH2NH2 | 40.9 mmol, 2.05 ml | NN | H4N2
reactant | 2-benzenesulphonyl-3-dimethylamino-acrylonitrile | 38.3 mmol, 9.08 g | C1(=CC=CC=C1)S(=O)(=O)C(C#N)=CN(C)C | C11H12N2O2S
solvent | EtOH | 60 ml | CCO | C2H6O
product | 4-benzenesulphonyl-1H-pyrazol-3-ylamine | 2.5 g, 30% | C1(=CC=CC=C1)S(=O)(=O)C=1C(=NNC1)N | C9H9N3O2S
